US09315507B2
3-(4-(Adamantan-1-yl)-2-methylphenoxy)-1-morpholinopropan-1-one (I-12)
The title compound was prepared from 3-(4-(adamantan-1-yl)-2-methylphenoxy)propanoic acid (0.2 g, 0.63 mmol) and morpholine (0.055 g, 0.63 mmol) according to the example 1, which was given 3-(4-(adamantan-1-yl)-2-methylphenoxy)-1-morpholinopropan-1-one as a white solid (0.22 g, 90.5% yield).

reactant | 3-(4-(adamantan-1-yl)-2-methylphenoxy)propanoic acid | 0.63 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCCC(=O)O)C=C2)C | C20H26O3
reactant | morpholine | 0.63 mmol, 0.055 g | N1CCOCC1 | C4H9NO
product | 3-(4-(adamantan-1-yl)-2-methylphenoxy)-1-morpholinopropan-1-one | 0.22 g, 90.5% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCCC(=O)N3CCOCC3)C=C2)C | C24H33NO3
